### ISSUE TITLE
Regression in `apply` at nonstandard transparency

### ISSUE THREAD

**Issue by hrmacbeth** [leanprover/lean4#6266]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [X] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [X] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [X] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

There is an apparent regression in `with_reducible_and_instances apply` on current nightly (4.15.0-nightly-2024-11-30), compared to 4.14.0-rc3.

### Context

This is isolated from a failure of the mathlib tactic `gcongr` which turned up in one of the "nightly testing" bumps, https://github.com/leanprover-community/mathlib4/pull/19314.

Zulip discussion:
- https://leanprover.zulipchat.com/#narrow/channel/428973-nightly-testing/topic/.2319314.20adaptations.20for.20nightly-2024-11-20
- https://leanprover.zulipchat.com/#narrow/channel/113488-general/topic/Minimization.20request

### Steps to Reproduce

```lean
class Inv (α : Type) where
  inv : α → α

postfix:max "⁻¹" => Inv.inv

class DivInvMonoid (G : Type) extends Inhabited G, Inv G where
  zpow : Int → G → G

class InvOneClass (G : Type) extends Inv G
class DivInvOneMonoid (G : Type) extends DivInvMonoid G, InvOneClass G
class DivisionMonoid (G : Type) extends DivInvMonoid G
class DivisionCommMonoid (G : Type) extends DivisionMonoid G
class GroupWithZero (G : Type) extends Inhabited G, DivInvMonoid G
class CommGroupWithZero (G : Type) extends Inhabited G, GroupWithZero G

theorem inv_anti₀ [GroupWithZero M] {a : M} (P : M → Prop) (hba : P a) : P (a⁻¹) := sorry

instance (priority := 100) DivisionMonoid.toDivInvOneMonoid {α : Type} [DivisionMonoid α] :
    DivInvOneMonoid α :=
  { DivisionMonoid.toDivInvMonoid with }

instance (priority := 100) CommGroupWithZero.toDivisionCommMonoid {G : Type} [CommGroupWithZero G] :
    DivisionCommMonoid G :=
  { ‹CommGroupWithZero G› with }

/-! ## Algebraic structure on the nonnegative elements of a type -/

namespace Nonneg
variable {α : Type} [CommGroupWithZero α] (P : α → Prop)

instance one : Inhabited (Subtype P) where default := ⟨default, sorry⟩
instance inv : Inv (Subtype P) where inv x := ⟨x⁻¹, sorry⟩

instance groupWithZero : GroupWithZero (Subtype P) :=
  { zpow := fun n x => ⟨DivInvMonoid.zpow n x, sorry⟩ }

instance commGroupWithZero : CommGroupWithZero (Subtype P) :=
  { Nonneg.groupWithZero P with }

end Nonneg


/-! ## Main issue -/

axiom Real : Type
notation "ℝ" => Real
@[instance] axiom Real.commGroupWithZero : CommGroupWithZero ℝ

axiom P : ℝ → Prop

def NNReal := Subtype P
notation "ℝ≥0" => NNReal
noncomputable instance : CommGroupWithZero ℝ≥0 := Nonneg.commGroupWithZero P


-- test 1
example {p : ℝ≥0} (P : ℝ≥0 → Prop) : P (p⁻¹) := by
  apply inv_anti₀ -- works
  sorry

-- test 2
example {p : ℝ≥0} (P : ℝ≥0 → Prop) : P (p⁻¹) := by
  with_reducible_and_instances apply inv_anti₀
  sorry
```

**Expected behavior:** Both Test 1 and Test 2 succeed.

**Actual behavior:** Test 2 fails with the error "tactic 'apply' failed, failed to assign synthesized instance".

### Versions

4.15.0-nightly-2024-11-30

(Both tests work on 4.14.0-rc3.)

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by hrmacbeth** [comment]
I bisected, this seems to appear for the first time in [`nightly-2024-11-12`](https://github.com/leanprover/lean4-nightly/releases/tag/nightly-2024-11-12).  Maybe it is caused by #5920?  (cc @kmill)

**Comment by kim-em** [comment]
As of 2026-03-17, this is working again on live.lean-lang.org.
